US04281000
7-(3-Pyridyl)pyrazolo[1,5-a]-pyrimidine-3-carboxylic acid ethyl ester
As for Example 2, 1.04 g. of 3-amino-4-carboethoxypyrazole is heated at reflux temperature for 16 hours with 1.18 g. of 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one in 25 ml. of glacial acetic acid to give 1.30 g. of the product of the example as colorless needles, m.p. 170°-171° C.

reactant | 3-amino-4-carboethoxypyrazole | NC1=NNC=C1C(=O)OCC | C6H9N3O2
reactant | 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(3-Pyridyl)pyrazolo[1,5-a]-pyrimidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN2C1N=CC=C2C=2C=NC=CC2 | C14H12N4O2
